US06914062B2
1) 1-(2-chloro-3-nitrobenzoyl)pyrrole
2-Chloro-3-nitrobenzoic acid (2 g, 10.0 mmol) and thionyl chloride (30 ml) were mixed at room temperature, and 4-dimethylaminopyridine (122 mg, 1.00 mmol) was added. The reaction mixture was refluxed for 12 hours and then concentrated to give a crude acid chloride. The acid chloride mentioned above was added to a solution of pyrrole (3.5 ml, 50.0 mmol) and triethylamine (7.0 ml, 50.0 mmol) in methylene chloride (80 ml) at room temperature. The reaction mixture was stirred at the same temperature for 6 hours and diluted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate, filtered, and concentrated to give a crude compound. The crude compound was purified by silica gel column chromatography (hexane:ethyl acetate, 1:0-7:3) to give the title compound (2.43 g) as a yellow oil.

reactant | 2-Chloro-3-nitrobenzoic acid | 10.0 mmol, 2 g | ClC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C7H4ClNO4
reactant | thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
reactant | pyrrole | 50.0 mmol, 3.5 ml | N1C=CC=C1 | C4H5N
reactant | triethylamine | 50.0 mmol, 7.0 ml | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 1.00 mmol, 122 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-chloro-3-nitrobenzoyl)pyrrole | 2.43 g | ClC1=C(C(=O)N2C=CC=C2)C=CC=C1[N+](=O)[O-] | C11H7ClN2O3
